US07417169B2
A mixture of benzyl 4′-(2-methanesulfonyloxyethoxy)-biphenyl-4-carboxylate (0.117 g) and N-[5-(2-amino-1-hydroxyethyl)-2-hydroxyphenyl]formamide (0.054 g) in N,N-dimethylformamide (2 mL) was stirred at 80° C. overnight. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: methylene chloride/methanol=20/1-10/1) to afford benzyl 4′-{2-[2-(3-formylamino-4-hydroxyphenyl)-2-hydroxyethylamino]ethoxy}biphenyl-4-carboxylate (0.016 g).

reactant | benzyl 4′-(2-methanesulfonyloxyethoxy)-biphenyl-4-carboxylate | 0.117 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C23H22O6S
reactant | N-[5-(2-amino-1-hydroxyethyl)-2-hydroxyphenyl]formamide | 0.054 g | NCC(O)C=1C=CC(=C(C1)NC=O)O | C9H12N2O3
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | benzyl 4′-{2-[2-(3-formylamino-4-hydroxyphenyl)-2-hydroxyethylamino]ethoxy}biphenyl-4-carboxylate | 0.016 g | C(=O)NC=1C=C(C=CC1O)C(CNCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)O | C31H30N2O6
